US06555577B1
The colourless solid (E)-3-[1,1′;3′,1″]terphenyl-5′-yl-prop-2-en-1-ol was prepared by DIBAL-H reduction of (E)-ethyl 3-[1,1′;3′,1″]terphenyl-5′-yl-acrylate by a procedure analogous to that described for example 52b.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (E)-ethyl 3-[1,1′;3′,1″]terphenyl-5′-yl-acrylate | C1(=CC=CC=C1)C1=CC(=CC(=C1)/C=C/C(=O)OCC)C1=CC=CC=C1 | C23H20O2
product | (E)-3-[1,1′;3′,1″]terphenyl-5′-yl-prop-2-en-1-ol | C1(=CC=CC=C1)C1=CC(=CC(=C1)/C=C/CO)C1=CC=CC=C1 | C21H18O
